US03975531
7-Benzoyl-5-chloroindolin-2-one.
A mixture of 162.5 g. (1.08 mole) of benzoyl chloride and 260 g. of aluminum chloride (1.80 mole) heated to 200°C. with stirring was treated with 65 g. (0.360 mole) of recrystallized 5-chloroindolin-2-one. This mixture was stirred 15 min. and poured over ice. The resulting precipitate was triturated with boiling water and then chloroform. The chloroform solution was washed with 5% sodium bicarbonate, water, dried over sodium sulfate, and stripped to yield approximately 55 g. of a glossy solid. This material was then triturated with hot methanol and the methanol evaporated under vacuum to yield approximately 20 g. of a solid yellow material. Extraction of a benzene solution of this material with conc. hydrochloric acid removed unreacted 5-chloroindolin-2-one and the benzene solution after washing with water and drying yielded on evaporation 3 g. of a blue-gray material. Trituration of this material with room temperature methanol gave a residue which on recrystallization from methanol yielded 2.5 g. of a tan solid identified as product, m.p. 186°-187°C.

reactant | benzoyl chloride | 1.08 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 1.80 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-chloroindolin-2-one | 0.360 mole | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
solvent | methanol | CO | CH4O
product | 7-Benzoyl-5-chloroindolin-2-one | C(C1=CC=CC=C1)(=O)C=1C=C(C=C2CC(NC12)=O)Cl | C15H10ClNO2
